US05965562
e) (2R*,4S*)-N-[1-(3,5-Bis-trifluoromethyl-benzoyl)-2-(4-nitro-benzyl)-piperidin-4-yl]-acetamide
2.49 g (9.0 mmol) of 3,5-bis-trifluoromethylbenzoyl chloride are added in the course of 1 hour at 0-5° C. to a stirred suspension of 2.50 g (9.0 mmol) of (2R*,4S*)-N-[2-(4-nitro-benzyl)-piperidin-4-yl]-acetamide in 20 ml of methylene chloride and 20 ml of a 10% aqueous sodium hydrogen carbonate solution. The mixture is then stirred for 1 hour at 25° C. The organic phase is dried over sodium sulfate, concentrated to dryness by evaporation and chromatographed on silica gel with methylene chloride/methanol. The title compound is obtained in the form of a yellowish resin. TLC: methylene chloride/methanol/conc. ammonia (90:9:0.5) Rf =0.45. 1H-NMR (200 MHz, D2O): rotameric mixture. δ 8.28-7.08 (m, 7H), 5.41 (br d, NH), 5.36-5.20 (m, 0.5H), 4.87-4.73 (m, 0.5H), 4.51-4.30 (m, 1H), 4.00-3.82 (m, 0.5H), 3.60-2.85 (m, 3.5H), 1.98 (s, 3H), 2.30-1.92 (m, 2H), 1.62-1.22 (m, 2H).

reactant | 3,5-bis-trifluoromethylbenzoyl chloride | 9.0 mmol, 2.49 g | FC(C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F)(F)F | C9H3ClF6O
reactant | (2R*,4S*)-N-[2-(4-nitro-benzyl)-piperidin-4-yl]-acetamide | 9.0 mmol, 2.50 g | [N+](=O)([O-])C1=CC=C(C[C@H]2NCC[C@@H](C2)NC(C)=O)C=C1 | C14H19N3O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | (2R*,4S*)-N-[1-(3,5-Bis-trifluoromethyl-benzoyl)-2-(4-nitro-benzyl)-piperidin-4-yl]-acetamide | FC(C=1C=C(C(=O)N2[C@@H](C[C@H](CC2)NC(C)=O)CC2=CC=C(C=C2)[N+](=O)[O-])C=C(C1)C(F)(F)F)(F)F | C23H21F6N3O4
